US03989738
A solution of 16.7 grams of 3,5-di-tert.butyl-4-hydroxybenzylpyridinium chloride in 50 milliliters of ethanol was added dropwise in 15 minutes to a slurry of 2.0 grams of sodium hydroxide and 13.4 grams of 1-nitropropane (200% excess) in 50 milliliters of ethanol. The reaction mixture as stirred for 3 hours and was then poured into 600 milliliters of water. The oil which precipitated was separated by extraction with hexane. The extract was evaporated to give 15.0 grams (98% of theory) of 1-ethyl-2-(3,5-di-tert.butyl-4-hydroxyphenyl)-1-nitroethane which melted at 55°-60° C.

reactant | 3,5-di-tert.butyl-4-hydroxybenzylpyridinium chloride | 16.7 grams | [Cl-].C(C)(C)(C)C=1C=C(C[N+]2=CC=CC=C2)C=C(C1O)C(C)(C)C
reactant | sodium hydroxide | 2.0 grams | [OH-].[Na+]
reactant | 1-nitropropane | 13.4 grams | [N+](=O)([O-])CCC | C3H7NO2
reactant | water | 600 milliliters | O | H2O
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
product | 1-ethyl-2-(3,5-di-tert.butyl-4-hydroxyphenyl)-1-nitroethane | 15.0 grams, 98% | C(C)C(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)[N+](=O)[O-] | C18H29NO3
